US04134983
To 4-(2,3-epoxypropoxy)-5,6,7,8-tetrahydronaphthaldehyde (2.4 gms) is added tert.-butylamine (15 ml.). The resulting solution is heated at 45° C. for 15 hours. The excess tert.-butylamine is removed at reduced pressure (20 mm). To the residue is added 30 ml. 6N hydrochloric acid, and the resulting mixture is refluxed for three hours. The acidic mixture i poured into a saturated solution of sodium carbonate which is heated on a steam bath with nitrogen bubbling through it. The basic mixture is extracted with chloroform, which is dried over anhydrous sodium sulfate, filtered and concentrated to give 2.3 g of 4-(3-tert.butylamino-2-hydroxypropoxy)-5,6,7,8-tetrahydronapthaldehyde as an oil.

reactant | 4-(2,3-epoxypropoxy)-5,6,7,8-tetrahydronaphthaldehyde | 2.4 gms | O1C(COC2=CC=C(C=3CCCCC23)C=O)C1 | C14H16O3
reactant | tert.-butylamine | 15 ml | C(C)(C)(C)N | C4H11N
product | 4-(3-tert.butylamino-2-hydroxypropoxy)-5,6,7,8-tetrahydronapthaldehyde | 2.3 g | C(C)(C)(C)NCC(COC1=CC=C(C=2CCCCC12)C=O)O | C18H27NO3
